US06437147B1
At 0° C., a solution of N-methyl-2-phenoxybenzamide (22.2 g, 97.7 mmol) in THF (175 ml) was added dropwise to a suspension of sodium borohydride (9.20 g, 244 mmol) in THF (100 ml). The reaction mixture was stirred at 0° C. for 20 min. A solution of iodine (24.8 g 97 mmol) in THF (125 ml) was added dropwise. The reaction mixture was heated to 70° C. for 16 hours. It was cooled to 0° C. Methanol 500 ml was added dropwise. The solvents were removed in vacuo. The residue was dissolved in a mixture of tert-butyl methyl ether (200 ml) and a 20% aqueous solution of sodium hydroxide (200 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (3×100 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (300 g), using a mixture of DCM/methanol/25% aqueous ammonia as eluent, to give 3.04 g of N-methyl-N-(2-phenoxybenzyl)amine.

reactant | N-methyl-2-phenoxybenzamide | 97.7 mmol, 22.2 g | CNC(C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C14H13NO2
reactant | sodium borohydride | 244 mmol, 9.20 g | [BH4-].[Na+]
reactant | iodine | 97 mmol, 24.8 g | II | I2
reactant | Methanol | 500 ml | CO | CH4O
solvent | THF | 175 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | N-methyl-N-(2-phenoxybenzyl)amine | 3.04 g | CNCC1=C(C=CC=C1)OC1=CC=CC=C1 | C14H15NO
